US05753665
A mixture of 7-(1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine (4.18 g), N-bromosuccinimide (4.59 g), and dibenzoylperoxide (70 mg) in tetrachloromethane (105 ml) was stirred and heated under reflux for 11 hours. The mixture was filtered and the solvent was removed from the filtrate to give 7-(1-bromo-1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine. Yield 2.94 g.

reactant | 7-(1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine | 4.18 g | CC(C)C1=CC=NC=2N1N=CN2 | C8H10N4
reactant | N-bromosuccinimide | 4.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 70 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 105 ml | ClC(Cl)(Cl)Cl | CCl4
product | 7-(1-bromo-1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)(C)C1=CC=NC=2N1N=CN2 | C8H9BrN4
